US05610141
b) meso-2,3-Diaminosuccinic acid
Meso-2,3-bis(benzylamino)succinic acid (9.5 g, 0.029 mol) was dissolved in a mixture of glacial acetic acid (50 ml) and concentrated hydrochloric acid (50 ml). Hydrogenolysis was effected at ambient temperature with 10% palladium on charcoal (1.0 g) as catalyst. The reaction was run until NMR showed that unreacted starting material was no longer present. Water (100 ml) was added and the catalyst was removed by filtration. The filtrate was concentrated (rotavapor) and the residue was dissolved in dilute aqueous sodium hydroxide. pH was adjusted to approximately 5 upon addition of glacial acetic acid. Crystals were filtered off and washed.

reactant | Meso-2,3-bis(benzylamino)succinic acid | 0.029 mol, 9.5 g | C1=CC=C(C=C1)CNC(C(C(=O)O)NCC2=CC=CC=C2)C(=O)O | C18H20N2O4
reactant | Water | 100 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | meso-2,3-Diaminosuccinic acid | C(C(C(=O)O)N)(C(=O)O)N | C4H8N2O4
